US08022223B2
N-(3-(2-chlorophenylthio)-5-(3-(dimethylamino)propylthio)pyridin-2-yl)-4-methylthiazol-2-amine dihydrochloride
Prepared according to the method of Example 16 using methyl 3-(5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)propanoate and 3-chloro-N,N-dimethylpropan-1-amine hydrochloride. 1H NMR (d6-DMSO) δ 10.12 (bs, 1H), 8.41 (s, 1H), 7.61 (d, 1H), 7.33 (m, 2H), 7.07 (m, 1H), 6.52 (s, 1H), 3.09 (m, 2H), 2.90 (m, 2H), 2.70 (d, 6H), 2.18 (s, 3H), 1.84 (m, 2H); Mass spectrum (esi) m/z 451.0 (M+H-2HCl).

reactant | methyl 3-(5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)propanoate | ClC1=C(C=CC=C1)SC=1C=C(C=NC1NC=1SC=C(N1)C)SCCC(=O)OC | C19H18ClN3O2S3
reactant | 3-chloro-N,N-dimethylpropan-1-amine hydrochloride | Cl.ClCCCN(C)C
product | N-(3-(2-chlorophenylthio)-5-(3-(dimethylamino)propylthio)pyridin-2-yl)-4-methylthiazol-2-amine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)SC=1C(=NC=C(C1)SCCCN(C)C)NC=1SC=C(N1)C | InChI=1S/C20H23ClN4S3.2ClH/c1-14-13-27-20(23-14)24-19-18(28-17-8-5-4-7-16(17)21)11-15(12-22-19)26-10-6-9-25(2)3;;/h4-5,7-8,11-13H,6,9-10H2,1-3H3,(H,22,23,24);2*1H
